data/mechanisms/records/IMS8-EQ8.41.json
{"mechanism_id": "IMS8-EQ8.41", "species": [{"species_id": "ether_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][O+:3][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "alkyl_radical_AB", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "oxocarbenium_CeqD", "mapped_smiles": "[CH2:2]=[O+:3][CH2:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ether_radical_cation"]}, {"state_id": "state_products", "species_ids": ["alkyl_radical_AB", "oxocarbenium_CeqD"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_arrows", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 171, "equation": "8.41", "figure": null, "panel": null, "section": "8.7 Radical-site initiation (one bond cleaved without rearrangement)"}, "confidence": 0.9, "curator_note": "Generic scheme 8.41: OE+. AB-C-D --alpha--> AB. + C=D+ (radical-site initiation, charge retention on D). Book draws 2 arcs; move 1 is drawn (D's odd electron [+. on D, right fishhook] -> forming C=D pi bond) and move 2 is drawn (one electron of the AB-C sigma bond [left arc] -> forming C=D pi bond); move 3 is an implicit homolysis hook (the other AB-C electron -> departing AB radical), required for electron balance and NOT drawn on the page (AB. is simply written as a product). Reactivity scale printed under the scheme: N > S, O, pi, R. > Cl, Br > H (radical-site donating ability)."}, {"evidence_id": "evidence_step_instantiation", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "curator_inferred", "locator": {"page": 171, "equation": "8.41", "figure": null, "panel": null, "section": null}, "confidence": 0.8, "curator_note": "Equation 8.41 is fully generic (letters AB, C, D) and prints NO m/z and NO intensity. Instantiated here on diethyl-ether radical cation (D=O, the heteroatom site) so the arrows have real atoms and the cross-linked MOeD rule IMS_4_13_1 matches atom-for-atom: AB=CH3 (map1, leaves as CH3.), C=CH2 (map2, alpha carbon), D=O (map3, radical/charge site bearing the spectator ethyl maps 4/5). Detected ion m/z 59.0491 (C3H7O+, ethoxymethylene oxocarbenium) and precursor m/z 74.0726 are curator-computed monoisotopic values from this instantiation, NOT numbers read from the page; species are flagged detected=false / peak status inferred accordingly. ms_context reflects the standard EI molecular-ion (M+.) context of the generic alpha-cleavage; this page (Section 8.7) shows no CAD/MI/CI experiment."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 74.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_oxocarbenium", "species_id": "oxocarbenium_CeqD", "step_id": "step_alpha_cleavage", "observed_mz": 59.0491, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
